US05162581
N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide
A mixture of 10.0 g (45.0 m moles) of 7-guanidinoheptanamide hydrochloride, 13.1 g (45.0 moles) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, and 3.2 g (15 m moles) of citric acid in water (100 ml) was evaporated to dryness to give a syrup which contained 1.0 g of water. The resulting syrup was heated at 60° C. for 8 hours.

reactant | 7-guanidinoheptanamide hydrochloride | 10.0 g | Cl.N(C(=N)N)CCCCCCC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 45.0 moles, 13.1 g | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | citric acid | 3.2 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 100 ml | O | H2O
solvent | water | 1.0 g | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide | NCCCNCCCCNC(C(O)NC(CCCCCCNC(=N)N)=O)=O | C17H37N7O3
